US07915424B2
Trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester
Add triethylamine (0.65 mL, 4.64 mmol) and N-phenyltrifluoromethanesulfonimide (1.58 g, 4.43 mmol) to a solution of 5-fluoropyridin-3-ol (0.5 g, 4.42 mmol) in dichloromethane (11 mL) at 0° C. and stir under nitrogen for 1 h. Warm the reaction mixture to room temperature and stir overnight. Wash the reaction mixture sequentially with an aqueous solution of 1 M sodium hydroxide and water. Dry over sodium sulfate and concentrate the organic layer to obtain the title compound as a volatile oil (0.568 g, 52%).

reactant | triethylamine | 4.64 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 4.43 mmol, 1.58 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 5-fluoropyridin-3-ol | 4.42 mmol, 0.5 g | FC=1C=C(C=NC1)O | C5H4FNO
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester | 0.568 g, 52% | FC=1C=C(C=NC1)OS(=O)(=O)C(F)(F)F | C6H3F4NO3S
